US05049551
Preparation of 2'-deoxy-3'-O-[N-(2-n-propyl-n-pentanoyl)-glycyl]-5'-O-trityl-5-fluorouridine (14)
To a suspension in which 0.11 g of N-(2-n-propyl-n-pentanoyl)glycine was suspended in 15 ml of methylene chloride was added 0.11 g of dicyclohexylcarbodiimide under ice-cooling and stirring, and then the mixture was stirred under ice-cooling for one hour. Then, 0.27 g of 2'-deoxy-5'-O-trityl-5-fluorouridine, 70 mg of triethylamine and 34 mg of 4-(N,N-dimethylamino)pyridine were added to the mixture, and the mixture was reacted at room temperature for two days under stirring. Thereafter, the reaction mixture was treated according to the same method as in Reference example 5 to give 0.26 g (Yield: 70%) of the title compound.

reactant | N-(2-n-propyl-n-pentanoyl)glycine | 0.11 g | C(CC)C(C(=O)NCC(=O)O)CCC | C10H19NO3
reactant | dicyclohexylcarbodiimide | 0.11 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2'-deoxy-5'-O-trityl-5-fluorouridine | 0.27 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O | C28H25FN2O5
reactant | triethylamine | 70 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 34 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | 2'-deoxy-3'-O-[N-(2-n-propyl-n-pentanoyl)-glycyl]-5'-O-trityl-5-fluorouridine | 0.26 g, Yield: 70% | C(CC)C(C(=O)NCC(=O)O[C@H]1C[C@@H](O[C@@H]1COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C(=O)NC(=O)C(=C1)F)CCC | C38H42FN3O7
